US05366987
(c) 3-Dodecyl-5-isoxazole methanol
To a stirred, chilled (+3° C.) solution of 3-dodecyl-5-isoxazole carboxylic acid (24.27 g, 0.08625 mol) and triethylamine (12.0 mL, 0.0861 mol) in dry tetrahydrofuran (600 mL) under nitrogen was added in one portion a chilled (+3° C.) solution of ethyl chloroformate (8.25 mL, 0.0863 mol) in dry tetrahydrofuran (30 mL). A white precipitate formed immediately. The suspension was stirred for 1.25 hours before sodium borohydride (6.54 g, 0.173 mol) was added in portions over 10 minutes. The mixture was stirred for 1.5 hours while warming to room temperature. The mixture was rechilled and carefully quenched with water (350 mL). The organic layer was diluted with dichloromethane. The aqueous layer was washed with THF-CH2Cl2. The organic solutions were combined, dried (Na2SO4), and rotoevaporated. The residue was chromatographed on silica gel (1.5 kg, 70-230 mesh) using petroleum ether-acetone (9:1, 20×1 L) eluent. Fractions 10 to 14 were rotoevaporated from dichloromethane and dried in vacuo to give a white solid; yield 11.1 g (48%); mp 57°-59° C.

reactant | 3-dodecyl-5-isoxazole carboxylic acid | 0.08625 mol, 24.27 g | C(CCCCCCCCCCC)C1=NOC(=C1)C(=O)O | C16H27NO3
reactant | triethylamine | 0.0861 mol, 12.0 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.0863 mol, 8.25 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 0.173 mol, 6.54 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-Dodecyl-5-isoxazole methanol | C(CCCCCCCCCCC)C1=NOC(=C1)CO | C16H29NO2
